US08022205B2
3-[7-(4-Isopropyl-phenyl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]-phenol (A-25)
In the same manner as Example 1-A-01, from 4-[4-chloro-5-(2-chloroethyl)-6-(3-methoxyphenyl)-pyrimidin-2-yl]-morpholine and 4-isopropylaniline, 7-(4-isopropyl-phenyl)-4-(3-methoxy-phenyl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine was obtained, and subsequently, further in the same manner as Example 1-A-09, the desired compound was obtained.

reactant | 4-[4-chloro-5-(2-chloroethyl)-6-(3-methoxyphenyl)-pyrimidin-2-yl]-morpholine | ClC1=NC(=NC(=C1CCCl)C1=CC(=CC=C1)OC)N1CCOCC1 | C17H19Cl2N3O2
reactant | 4-isopropylaniline | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | 7-(4-isopropyl-phenyl)-4-(3-methoxy-phenyl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | C(C)(C)C1=CC=C(C=C1)N1CCC2=C1N=C(N=C2C2=CC(=CC=C2)OC)N2CCOCC2 | C26H30N4O2
product | 3-[7-(4-Isopropyl-phenyl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]-phenol | C(C)(C)C1=CC=C(C=C1)N1CCC2=C1N=C(N=C2C=2C=C(C=CC2)O)N2CCOCC2 | C25H28N4O2
